US05972951
6-Amino-2,3-dihydro-1'-methylspiro[4H-benzopyran-4,4'-piperidine]
A stirred suspension of lithium aluminium hydride (76 mg, 0.0020 mole) in THF (15 ml) at 0° C. under argon was treated with a solution of 6-amino-2,3-dihydro-1'-ethoxycarbonylspiro[4H-benzopyran-4,4'-piperidine] (D104, 300 mg, 0.0010 mole) in THF (5 ml). The reaction mixture was allowed to warm to room temp. and stir for 1.5 h, then treated with more lithium aluminium hydride (38 mg, 0.0010 mole) suspended in THF (5 ml). The mixture was heated under reflux for 0.75 h, then cooled in an ice bath and treated with water (0.10 ml), 10% NaOH solution (0.10 ml) and water (0.30 ml). The resulting mixture was filtered through kieselguhr and the filtrate concentrated in vacuo to afford the title compound as a yellow oil (200 mg, 84%).

reactant | lithium aluminium hydride | 0.0020 mole, 76 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-amino-2,3-dihydro-1'-ethoxycarbonylspiro[4H-benzopyran-4,4'-piperidine] | 0.0010 mole, 300 mg | NC=1C=CC2=C(C1)C1(CCN(CC1)C(=O)OCC)CCO2 | C16H22N2O3
reactant | lithium aluminium hydride | 0.0010 mole, 38 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.10 ml | O | H2O
reactant | NaOH | 0.10 ml | [OH-].[Na+]
reactant | water | 0.30 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-Amino-2,3-dihydro-1'-methylspiro[4H-benzopyran-4,4'-piperidine] | 200 mg, 84% | NC=1C=CC2=C(C1)C1(CCN(CC1)C)CCO2 | C14H20N2O
